US07473698B2
A mixture of 4-fluorobenzaldehyde (25.5 g, 0.220 mol), methyl 3-oxobutanoate (21.80 g, 0.220 mol), and piperidine (1.0 mL) in anhydrous benzene (250 mL) was stirred for 10 minutes at room temperature and subsequently refluxed overnight in a Dean-Stark apparatus. The reaction mixture was then cooled to room temperature and the solvent was removed in vacuo to afford methyl (2Z)-2-acetyl-3-(4-fluorophenyl)-2-propenoate as a black solid (48.6 g, 99%), which was used for next step without purification.

reactant | 4-fluorobenzaldehyde | 0.220 mol, 25.5 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | methyl 3-oxobutanoate | 0.220 mol, 21.80 g | O=C(CC(=O)OC)C | C5H8O3
reactant | piperidine | 1.0 mL | N1CCCCC1 | C5H11N
solvent | benzene | 250 mL | C1=CC=CC=C1 | C6H6
product | methyl (2Z)-2-acetyl-3-(4-fluorophenyl)-2-propenoate | 48.6 g, 99% | C(C)(=O)/C(/C(=O)OC)=C/C1=CC=C(C=C1)F | C12H11FO3
